US05175162
To a solution of 3.6 g of 2-(4-chlorophenyl)-9-methyl-4,4a,5,6-tetrahydrothieno[2',3':2,3]thiepino[4,5-c]pyridazin-3(2H)-one in 50 ml of acetic acid is added dropwise a solution of 1.7 g of bromine in 15 ml of acetic acid stirring for 15 minutes at 40°-45° C. The mixture is stirred for 20 minutes at the same temperature and then poured into 200 ml of water. The precipitated crystals are collected by filtration and washed with water. The resulting crystals are subjected to column chromatography on silica gel and eluted with chloroform. The crystals obtained from the fraction are recrystallized from a mixed solvent of chloroform and ethanol to give 2.2 g of 2-(4-chlorophenyl)-9-methyl-5,6-dihydrothieno[2',3':2,3]thiepino[4,5-c]pyridazin-3(2H)-one as pale brown crystals, melting at 150°-151° C.

reactant | 2-(4-chlorophenyl)-9-methyl-4,4a,5,6-tetrahydrothieno[2',3':2,3]thiepino[4,5-c]pyridazin-3(2H)-one | 3.6 g | ClC1=CC=C(C=C1)N1N=C2C(CC1=O)CCSC1=C2C=C(S1)C | C17H15ClN2OS2
reactant | bromine | 1.7 g | BrBr | Br2
reactant | water | 200 ml | O | H2O
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 2-(4-chlorophenyl)-9-methyl-5,6-dihydrothieno[2',3':2,3]thiepino[4,5-c]pyridazin-3(2H)-one | 2.2 g | ClC1=CC=C(C=C1)N1N=C2C(=CC1=O)CCSC1=C2C=C(S1)C | C17H13ClN2OS2
